US08044052B2
(3-(4-(Trifluoromethyl)phenoxy)phenyl)methanol
3-Hydroxymethyl-phenol (1.0 g, 8.1 mmol), 4-fluorobenzotrifluoride (1.32 g, 8.1 mmol) and cesium carbonate (3.28 g, 10.1 mmol) were suspended in dimethylsulfoxide (15 mL) and heated to 110° C. After stirring for 16 h, the reaction was partitioned between water (150 mL) and ethyl acetate (150 mL). The organic layer was separated and the aqueous was extracted again with ethyl acetate. The combined organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (10-40%, EtOAc:heptane) to afford the title compound (1.32 g) as a thick oil.

reactant | 3-Hydroxymethyl-phenol | 8.1 mmol, 1.0 g | OCC=1C=C(C=CC1)O | C7H8O2
reactant | 4-fluorobenzotrifluoride | 8.1 mmol, 1.32 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | cesium carbonate | 10.1 mmol, 3.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
product | (3-(4-(Trifluoromethyl)phenoxy)phenyl)methanol | 1.32 g | FC(C1=CC=C(OC=2C=C(C=CC2)CO)C=C1)(F)F | C14H11F3O2
